US08227462B2
3,3,3-Trifluoro-2,2-dimethyl-propionic acid butyl ester)
3,3,3-Trifluoro-2,2-dimethyl-propionic acid (3.0 g, 19.2 mmol) and a drop of DMF are dissolved in 30 mL of DCM and treated dropwise at RT with oxalyl chloride (1.85 mL, 21.1 mmol). After 2 h gas evolution ceases and the mixture is treated slowly with triethyl amine (5.36 mL, 38.4 mmol) followed by n-butanol (2.1 mL, 23 mmol). The mixture is stirred over night, the solvent evaporated and the residue stirred with hexanes. The solid is filtered off and the filtrate is evaporated to a brown-red oil. Kugelrohr distillation (10 mbar, 60-80° C. oven temperature) gives the title compound a colorless liquid.

reactant | 3,3,3-Trifluoro-2,2-dimethyl-propionic acid | 19.2 mmol, 3.0 g | FC(C(C(=O)O)(C)C)(F)F | C5H7F3O2
reactant | oxalyl chloride | 21.1 mmol, 1.85 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethyl amine | 38.4 mmol, 5.36 mL | C(C)N(CC)CC | C6H15N
reactant | n-butanol | 23 mmol, 2.1 mL | C(CCC)O | C4H10O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3,3,3-Trifluoro-2,2-dimethyl-propionic acid butyl ester | C(CCC)OC(C(C(F)(F)F)(C)C)=O | C9H15F3O2
